US05200514
B. 2'-Deoxycytidine
Acetyl bromide (16.5 g, 134 mmol, 3.3 eq.) was added dropwise over 0.5 hours to a suspension of cytidine (10 g, 41.1 mmol) in CH3CN (250 mL) and HBr in acetic acid (10 mL, 30% weight) heated at 60°-65° C. The mixture was stirred at 100° C. for 3 hours, and then 10 mL more HBr in acetic acid was added. The mixture was stirred at 100° C. for an additional 28 hours. The solution was removed under vacuum to get a solid, which was purified with silica gel chromatography, to get 9.05 g of a solid (yield 56%).

reactant | Acetyl bromide | 134 mmol, 16.5 g, 3.3 eq. | C(C)(=O)Br | C2H3BrO
reactant | cytidine | 41.1 mmol, 10 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O5
solvent | CH3CN | 250 mL | CC#N | C2H3N
solvent | HBr | Br | BrH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2'-Deoxycytidine | 9.05 g, yield 56% | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O4
